* -*- spice -*-
* http://www.nxp.com/documents/spice_model/1N4148.prm
*
*******************************************
*
* 1N4148
* 
* NXP Semiconductors
* 
* High-speed diodes
* 
* VRRM = 100V
* IFRM = 450 mA 
* trr  = 4ns
* 
* Package pinning does not match Spice model pinning.
* Package: SOD 27
* 
* Package Pin 1 : Cathode
* Package Pin 2 : Anode
* 
* Simulator: PSPICE
*
*******************************************
*
.SUBCKT 1N4148 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 1N4148
*
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
.ENDS
*
